### PR TITLE
[Merged by Bors] - refactor: re-prove Euler's partition theorem from Glaisher's theorem

### PR DESCRIPTION
**Pull request by wwylele**
Less code to maintain is good. I hope the authors of the original proof are fine with this...

---

- [x] depends on: #30618

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean [hunk 1]
```diff
@@ -145,4 +155,8 @@ theorem card_restricted_eq_card_countRestricted (n : ℕ) {m : ℕ} (hm : 0 < m)
   simpa using PowerSeries.ext_iff.mp
     (powerSeriesMk_card_restricted_eq_powerSeriesMk_card_countRestricted ℤ hm) n
 
+theorem card_odds_eq_card_dinstincts (n : ℕ) : #(odds n) = #(distincts n) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean]:
```suggestion
theorem card_odds_eq_card_distincts (n : ℕ) : #(odds n) = #(distincts n) := by
```

**Review by b-mehta — COMMENTED** [review]
Very nice, thanks!

bors merge

**Comment by b-mehta** [comment]
Oops, I meant to delegate not merge! (Pushing a commit cancels)

bors merge
